US07115412B2
Preparation of (R)-7-hydroxy-3-(2-phthalimidopropyl)indole
(R)-7-Benzyloxy-3-(2-phthalimidopropyl)indole 12.16 g was dissolved in 400 ml of ethanol, and a water 100 ml suspension of a 10% palladium on carbon catalyst (content 50%) 4.00 g prepared separately was added thereto. Ammonium formate 6.00 g was added thereto while stirring, and the suspension was heated in an oil bath of 95° C. For one hour. After cooling down, the catalyst was filtered off, and the filtrate was concentrated under reduced pressure. Acetone was added to the residue, and a deposited salt was filtered off. The filtrate was concentrated under reduced pressure, whereby 10.27 g of a residue containing the title compound was obtained.

reactant | (R)-7-Benzyloxy-3-(2-phthalimidopropyl)indole | 12.16 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C[C@@H](C)N1C(C=2C(C1=O)=CC=CC2)=O | C26H22N2O3
reactant | water | 100 ml | O | H2O
reactant | Ammonium formate | 6.00 g | C(=O)[O-].[NH4+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 4.00 g | [Pd] | Pd
product | (R)-7-hydroxy-3-(2-phthalimidopropyl)indole | OC=1C=CC=C2C(=CNC12)C[C@@H](C)N1C(C=2C(C1=O)=CC=CC2)=O | C19H16N2O3
